US07429609B2
Furan-2-carboxylic acid{7-fluoro-1-(furan-2-carbonyl)-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-yl}-amide
Following amidation using 217 mg of 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazol-5-ylamine and 286 mg of 2-furancarboxylic acid in accordance with the method of Example 127, purification by LC-MS was carried out, to afford 143 mg of the title compound as yellow crystals.

reactant | 7-fluoro-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazol-5-ylamine | 217 mg | FC=1C=C(C=C2C(=NNC12)\C=C\C=1C=NC=CC1)N | C14H11FN4
reactant | 2-furancarboxylic acid | 286 mg | O1C(=CC=C1)C(=O)O | C5H4O3
product | Furan-2-carboxylic acid{7-fluoro-1-(furan-2-carbonyl)-3-[(E)-2-(pyridin-3-yl)-vinyl]-1H-indazole-5-yl}-amide | 143 mg | FC=1C=C(C=C2C(=NN(C12)C(=O)C=1OC=CC1)\C=C\C=1C=NC=CC1)NC(=O)C=1OC=CC1 | C24H15FN4O4
